US08383629B2
5,7-dichloro-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)spiro[isoindoline-1,4′-piperidin]-3-one
The title compound was prepared following a procedure analogous to that described in Example 28 using 3-(2-(trifluoromethyl)phenyl)propanoic acid and 5,7-dichlorospiro[isoindoline-1,4′-piperidin]-3-one. LC-MS Method 3 tR=1.312, min, m/z=471; 1H NMR (d6-DMSO) 1.38 (d, 2H), 2.37 (m, 1H), 2.60-2.80 (m, 2H), 2.83-3.02 (m, 3H), 3.35 (m, 2H), 3.94 (d, 1H), 4.51 (d, 1H), 7.38 (t, 1H), 7.55 (m, 2H), 7.64 (m, 2H), 7.80 (s, 1H), 9.88 (s, 1H)

reactant | 3-(2-(trifluoromethyl)phenyl)propanoic acid | FC(C1=C(C=CC=C1)CCC(=O)O)(F)F | C10H9F3O2
reactant | 5,7-dichlorospiro[isoindoline-1,4′-piperidin]-3-one | ClC=1C=C2C(NC3(CCNCC3)C2=C(C1)Cl)=O | C12H12Cl2N2O
product | 5,7-dichloro-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)spiro[isoindoline-1,4′-piperidin]-3-one | ClC=1C=C2C(NC3(CCN(CC3)C(CCC3=C(C=CC=C3)C(F)(F)F)=O)C2=C(C1)Cl)=O | C22H19Cl2F3N2O2
